US07265246B2
A. 2-Formyl-4-phenyl-furan
Prepare a solution of 4-bromo-2-formylfuran (3.7 g, 21.1 mmol) in 1,2-dimethoxyethane (148 mL). Add phenyl boronic acid (5.16 g, 42.3 mmol), K2CO3 (31.6 mL, 63.4 mmol), Pd2(dba)3 (660 mg, 0.63 mmol), and PPh3 (670 mg, 2.5 mmol). Stir the reaction mixture under nitrogen for 10 minutes at room temperature. After 10 minutes, heat the mixture to 80° C. for 3 days. Wash the reaction mixture with brine (30 mL), dry (Na2SO4), filter, and concentrate. Perform flash chromatography on silica gel eluting with 1:1 hex/ethyl acetate to afford the title compound (1.5 g) as a brown liquid. 1H NMR (CDCl3) δ 9.71 (s, 1H), 7.97 (s, 1H), 6.82-7.55 (m, 6H).

reactant | 4-bromo-2-formylfuran | 21.1 mmol, 3.7 g | BrC=1C=C(OC1)C=O | C5H3BrO2
reactant | phenyl boronic acid | 42.3 mmol, 5.16 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 63.4 mmol, 31.6 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | PPh3 | 2.5 mmol, 670 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | 1,2-dimethoxyethane | 148 mL | COCCOC | C4H10O2
catalyst | Pd2(dba)3 | 0.63 mmol, 660 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Formyl-4-phenyl-furan | 1.5 g | C(=O)C=1OC=C(C1)C1=CC=CC=C1 | C11H8O2
